US07528136B2
[(2S,4S)-1-Benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidin-2-yl]-(4-m-tolyl-piperazin-1-yl)-methanone
As described for Example 56d, 1-benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidine-2-carboxylic acid (65 mg, 0.146 mmol) was converted, using 1-m-tolyl-piperzine instead of 1-(3-trifluoromethyl-phenyl)-piperazine, to the title compound (7.5 mg, 8.5%) as light yellow oil. MS m/e=605.4 [M+H]+.

reactant | 1-benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidine-2-carboxylic acid | 0.146 mmol, 65 mg | C(C1=CC=CC=C1)N1C(CC(C1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)O | C21H20F6N2O2
reactant | 1-m-tolyl-piperzine | C1(=CC(=CC=C1)N1CCNCC1)C | C11H16N2
product | [(2S,4S)-1-Benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidin-2-yl]-(4-m-tolyl-piperazin-1-yl)-methanone | 7.5 mg, 8.5% | C(C1=CC=CC=C1)N1[C@@H](C[C@@H](C1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)N1CCN(CC1)C=1C=C(C=CC1)C | C32H34F6N4O
